US04906666
(a) [3-(1-Hydroxyhexyl)-phenoxymethyl]-oxirane
19.4 g. (0.1 mole) 3-(1-hydroxyhexyl)-phenol and 28.6 g. epichlorohydrin are dissolved in 25 ml. ethanol and heated to the boil. A solution of 6.6 g. potassium hydroxide in 3 ml. water and 25 ml. ethanol is then added dropwise thereto in the course of 15 minutes. The reaction mixture is boiled under reflux for 2 hours, the solvent is then distilled off and the residue is taken up in water. Extraction is carried out with ethyl acetate, the ethyl acetate phase is washed twice with aqueous sodium hydroxide solution and water, dried and evaporated to give 22.4 g. (89% of theory) of the title compound in the form of an oil.

reactant | 3-(1-hydroxyhexyl)-phenol | 0.1 mole | OC(CCCCC)C=1C=C(C=CC1)O | C12H18O2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | [3-(1-Hydroxyhexyl)-phenoxymethyl]-oxirane | OC(CCCCC)C=1C=C(OCC2OC2)C=CC1 | C15H22O3
